US08895607B2
To a 100 mL round bottom flask containing 20 mL CH2Cl2 was added 0.54 mL (6.20 mmol; 1.2 eq) of COCl2 in 2 mL CH2Cl2. The flask was then chilled to −60° C. (acetone bath and cold finger) under argon balloon. To this was added 0.88 mL dry (molecular civ treated) DMSO in 1 mL dry (MgSO4 treated) CH2Cl2 drop wise. The mixture was allowed to stir for 15 min. before being brought up to −30° C. where 2.02 g (6.17 mmol) of N-trityl-trans-4-hydroxy-L-proline ethyl ester in 4 mL CH2Cl2 was added dropwise over 10 min. The resulting solution was allowed to stir for 1 h at −30° C. under argon balloon. To complete the reaction, 3.6 mL (>5 eq) of triethylamine was slowly added. The flask was then allowed to warm to room temperature where 100 mL of water was added. The mixture was then extracted with Et2O (3×100 mL). The organic extracts were combined, dried with Na2SO4 and concentrated via rotovap to a solid crude. The remaining crude was then immediately separated by silica gel (90% hexanes, 9% ethylacetate, 1% TEA, Rf=0.2). The fractions containing the product were combined, concentrated, and placed on a high vacuum pump leaving 1.51 g of N-trityl-4-keto-L-proline ethyl ester, as a white foam, a yield of 75%. This product, once isolated, was then used within 4-6 h in the addition step (trityl group readily decomposes) without further purification.

reactant | acetone | CC(=O)C | C3H6O
reactant | N-trityl-trans-4-hydroxy-L-proline ethyl ester | 6.17 mmol, 2.02 g | C(C)OC([C@H]1N(C[C@@H](C1)O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C26H27NO3
reactant | triethylamine | 3.6 mL, >5 eq | C(C)N(CC)CC | C6H15N
reactant | water | 100 mL | O | H2O
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | N-trityl-4-keto-L-proline ethyl ester | 1.51 g, yield of 75% | C(C)OC([C@H]1N(CC(C1)=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C26H25NO3
